US07786165B2
methyl 3-(6-aminopyridin-3-yl)propanoate
Methyl(2E)-3-(6-Aminopyridin-3-yl)acrylate (1.5 g, 8.42 mmol) was dissolved in methanol (15 mL), and 10% palladium-carbon (50% water-containing product, 0.30 g) was added. The mixture was stirred under a hydrogen atmosphere (balloon pressure) at room temperature for 16 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (0%-10% methanol/ethyl acetate) to give the title compound (1.26 g, yield 83%) as a white powder.

reactant | Methyl(2E)-3-(6-Aminopyridin-3-yl)acrylate | 8.42 mmol, 1.5 g | NC1=CC=C(C=N1)/C=C/C(=O)OC | C9H10N2O2
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium-carbon | 0.30 g | [C].[Pd]
product | methyl 3-(6-aminopyridin-3-yl)propanoate | 1.26 g, yield 83% | NC1=CC=C(C=N1)CCC(=O)OC | C9H12N2O2
